US05580866
6-Chloro-4,5-dihydro-1,4-benzothiazepin-3(2H)-one (9.8 g, prepared in a similar manner to example 11 of international patent application WO 92/21668) was added to a stirred solution of lithium aluminium hydride (5.01 g) in dry tetrahydrofuran (400 ml). After the addition, the reaction mixture was heated under reflux for five minutes and then cooled. Excess lithium aluminium hydride was decomposed by adding of a saturated aqueous solution of sodium sulphate. The mixture was filtered and the solvent evaporated from the filtrate to give 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine as an oil.

reactant | 6-Chloro-4,5-dihydro-1,4-benzothiazepin-3(2H)-one | ClC1=CC=CC2=C1CNC(CS2)=O | C9H8ClNOS
reactant | lithium aluminium hydride | 5.01 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine | ClC1=CC=CC2=C1CNCCS2 | C9H10ClNS
